US04596819
3.00 g (0.012 mol) of (S)-1,1-dimethylethyl [(2-amino-4-methylpentyl)thio]acetate, 172 g (0.012 mol) 5-methyl-2-thiophene carboxylic acid, 1.64 g (0.012 mol) 1-hydroxybenzotriazole, and 2.50 g (0.012 mol) N,N-dicyclohexylcarbodiimide are reacted according to the procedure for Example 3 to give 0.64 g of (S)-1,1-dimethylethyl [[4-methyl-2-[[[5-methyl-2-thienyl]carbonyl]amino]pentyl]thio]acetate as a crystalline solid, mp 81°-83°; [α]D25 +56.5° (C 0.63, methanol).

reactant | (S)-1,1-dimethylethyl [(2-amino-4-methylpentyl)thio]acetate | 0.012 mol, 3.00 g | N[C@H](CSCC(=O)OC(C)(C)C)CC(C)C | C12H25NO2S
reactant | 5-methyl-2-thiophene carboxylic acid | 0.012 mol, 172 g | CC1=CC=C(S1)C(=O)O | C6H6O2S
reactant | 1-hydroxybenzotriazole | 0.012 mol, 1.64 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
product | (S)-1,1-dimethylethyl [[4-methyl-2-[[[5-methyl-2-thienyl]carbonyl]amino]pentyl]thio]acetate | 0.64 g | CC(C[C@@H](CSCC(=O)OC(C)(C)C)NC(=O)C=1SC(=CC1)C)C | C18H29NO3S2
